US03957988
2,7-Bis[4-(diethylamino)butyryl]thioxanthene dihydrochloride
A mixture of 32.6 g (0.08 mole) of 2,7-bis(4-chlorobutyryl)thioxanthene, 2 g of potassium iodide, 100 ml of diethylamine and 100 ml of tetrahydrofuran was heated for 24 hours with stirring in a Paar bomb at 110°C. Upon cooling the mixture was evaporated to near dryness. The residue was dissolved in methylene chloride, washed with water then with saturated NaCl solution, dried over magnesium sulfate and filtered. The filtrate was evaporated to near dryness and recrystallized several times from methanol-diethyl ether and from acetone-methanol to give the desired product. M.P. 188°-191°C.

reactant | 2,7-bis(4-chlorobutyryl)thioxanthene | 0.08 mole, 32.6 g | ClCCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCCl)=O | C21H20Cl2O2S
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | diethylamine | 100 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,7-Bis[4-(diethylamino)butyryl]thioxanthene dihydrochloride | Cl.Cl.C(C)N(CCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCN(CC)CC)=O)CC | InChI=1S/C29H40N2O2S.2ClH/c1-5-30(6-2)17-9-11-26(32)22-13-15-28-24(19-22)21-25-20-23(14-16-29(25)34-28)27(33)12-10-18-31(7-3)8-4;;/h13-16,19-20H,5-12,17-18,21H2,1-4H3;2*1H
